datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[C:13]([C:12]([H:20])([H:21])[H:22])([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23])([H:4])[H:5],47.321
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([C:13]([C:14]([H:23])([H:24])[H:25])([O:15][O:16])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][O:16][O:15][C:13]([C:12]([C:11]([H:17])([H:18])[H:19])([H:20])[H:21])([C:14]([H:23])([H:24])[H:25])[H:22],85.60464
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([O:4][O:5])([H:15])[H:16])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([O:4][O:5][H:9])([H:15])[H:16])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:10])[H:11],90.3744
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14])[C:4]([H:8])([H:9])[H:10])[H:5],7.15464
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15](=[C:16][C:17]([H:20])([H:21])[H:22])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:16](=[C:15]([H:18])[H:19])[C:17]([H:20])([H:21])[H:22])[H:8])[H:7],3.43088
[C:0](#[C:1][H:3])[H:2].[C:4](=[C:5]=[C:6]([C:7]#[C:8][H:11])[H:10])[H:9]>>[C:0](=[C:1][H:3])([H:2])[C:4](=[C:5]=[C:6]([C:7]#[C:8][H:11])[H:10])[H:9],66.98584
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[c:11]1([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]1[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:17])[H:6].[c:11]1[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]1[H:22],128.867
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6][H:7])([H:16])[H:17])([H:14])[H:15])[H:10])([H:8])[H:9],83.68
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([O:15][O:16])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][O:16][O:15][C:14]([H:17])([H:18])[H:19],55.18696
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](#[C:10][C:11]([C:12]([H:15])([H:16])[H:17])[C:13]([H:18])([H:19])[H:20])[H:14]>>[C:0](#[C:1][C:2](=[C:3][C:4]([H:6])([H:7])[H:8])[C:11]([C:10]#[C:9][H:14])([C:12]([H:15])([H:16])[H:17])[C:13]([H:18])([H:19])[H:20])[H:5],47.4047
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([C:16]([S:17][H:23])[C:18](=[S:19])[H:24])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:16]([C:15]([H:20])([H:21])[H:22])([S:17][H:23])[C:18](=[S:19])[H:24],67.9482
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]=[S:18])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:17]([C:16]([H:19])([H:20])[H:21])=[S:18],20.92
[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:13])[H:14])([H:11])[H:12])([H:9])([H:10])[H:18],76.868448
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18]([C:19]([H:22])([H:23])[H:24])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[C:18]([C:19]([H:22])([H:23])[H:24])([H:20])[H:21])[H:8],15.9829
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[O:9][O:10]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][O:9][O:10],193.2677464
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18]([c:19]1[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]1[H:31])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:18]([c:19]1[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]1[H:31])([H:25])[H:26])[H:11])[H:10])([H:8])[H:9],37.8234
